US05173484
1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is reacted analogously to Example 1 with 3-ethylaminomethyl-3-hydroxypiperidine to give 1-cyclopropyl-7-(3-ethylaminomethyl-3hydroxy-1-piperidinyl)-6-fluoro-1,4dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 199°-203° (with decomposition).

reactant | 1-Cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 3-ethylaminomethyl-3-hydroxypiperidine | C(C)NCC1(CNCCC1)O | C8H18N2O
product | 1-cyclopropyl-7-(3-ethylaminomethyl-3hydroxy-1-piperidinyl)-6-fluoro-1,4dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CCC1)(O)CNCC)F)=O)C(=O)O | C21H26FN3O4
